US07897627B2
a) Step 1: [(R)-1-(2,6-Dimethoxy-benzoyl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester
A mixture of 2.94 g (15.8 mmol) (R)-pyrrolidin-3-yl-carbamic acid tert-butyl ester (commercially available), 2,6-dimethoxybenzoyl chloride (commercially available) and 2.08 g (2.05 mmol) NEt3 in 15 mL DCM was stirred at room temperature over night. The mixture was absorbed on isolute SPE and purified by column chromatography on silica eluting with a gradient formed from heptane and ethyl acetate to yield 3.78 g (68%) of the title compound as white foam. (MH+) 351.2

reactant | (R)-pyrrolidin-3-yl-carbamic acid tert-butyl ester | 15.8 mmol, 2.94 g | C(C)(C)(C)OC(N[C@H]1CNCC1)=O | C9H18N2O2
reactant | 2,6-dimethoxybenzoyl chloride | COC1=C(C(=O)Cl)C(=CC=C1)OC | C9H9ClO3
reactant | NEt3 | 2.05 mmol, 2.08 g | CCN(CC)CC | C6H15N
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | [(R)-1-(2,6-Dimethoxy-benzoyl)-pyrrolidin-3-yl]-carbamic acid tert-butyl ester | 3.78 g, 68% | C(C)(C)(C)OC(N[C@H]1CN(CC1)C(C1=C(C=CC=C1OC)OC)=O)=O | C18H26N2O5
